US04888352
To a slurry of 8g (0.2 mol) of sodium hydride in 100 mL of DMF at room temperature was added 23g (0.16 mol) of 3-phenylpyrazole. The mixture was stirred 1 hr and 17.8 mL (0.16 mol) of ethyl bromoacetate was added. The reaction was heated at about 100° C. for 2 hr, cooled, poured into water, extracted into methylene chloride, dried over magnesium sulfate and stripped. The resulting oil was chromatographed on silica gel HPLC using 25% ethyl acetate in hexane. The first, and major, component to elute was the 3-isomer. It was recrystallized from ether-hexane to yield 6.0g of ethyl 3-phenyl-1H-pyrazole-1-acetate having an Rf of 0.66 on silica gel in 1:1 ethylacetate-hexane. The third component to elute from the HPLC separation was a minor fraction containing the 5-isomer. Upon stripping the solvent one obtained 1.0g of ethyl 5-phenyl-1H-pyrazole-1-acetate as an oil having an Rf of 0.51 on silica gel in 1:1 ethyl acetate-hexane.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-phenylpyrazole | C1(=CC=CC=C1)C1=NNC=C1 | C9H8N2
reactant | ethyl bromoacetate | 0.16 mol, 17.8 mL | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl 3-phenyl-1H-pyrazole-1-acetate | 6.0g | C1(=CC=CC=C1)C1=NN(C=C1)CC(=O)OCC | C13H14N2O2
